US07834063B2
C. N-[4-({3-[[4-Cyano-3-(trifluoromethyl)phenyl](2,2,2-trifluoroethyl)amino]propyl}oxy)phenyl]acetamide
Synthesized as described in Example 1C from 4-[(3-hydroxypropyl)(2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile and 4-acetamidophenol: MS (APCI) m/z 460 (M+1).

reactant | 4-[(3-hydroxypropyl)(2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile | OCCCN(C1=CC(=C(C#N)C=C1)C(F)(F)F)CC(F)(F)F | C13H12F6N2O
reactant | 4-acetamidophenol | C(C)(=O)NC1=CC=C(C=C1)O | C8H9NO2
product | N-[4-({3-[[4-Cyano-3-(trifluoromethyl)phenyl](2,2,2-trifluoroethyl)amino]propyl}oxy)phenyl]acetamide | C(#N)C1=C(C=C(C=C1)N(CCCOC1=CC=C(C=C1)NC(C)=O)CC(F)(F)F)C(F)(F)F | C21H19F6N3O2
